US07648985B2
(i) N-(3-Bromo-propyl)-4-cyano-benzenesulfonamide
4-Cyanobenzenesulfonyl chloride (5 g, 0.0248 mol) was added dropwise to a solution of 3-bromopropylamine hydrobromide (6.61 g, 0.0302 mol) and triethylamine (6.26 g, 0.062 mol) in dry dichloromethane (50 ml) at 0° C. and stirred at room temperature overnight under nitrogen atmosphere. The reaction was quenched with water and extracted with dichloromethane. The organic layer was washed with water, brine and dried over sodium sulfate.

reactant | 4-Cyanobenzenesulfonyl chloride | 0.0248 mol, 5 g | C(#N)C1=CC=C(C=C1)S(=O)(=O)Cl | C7H4ClNO2S
reactant | 3-bromopropylamine hydrobromide | 0.0302 mol, 6.61 g | Br.BrCCCN
reactant | triethylamine | 0.062 mol, 6.26 g | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | N-(3-Bromo-propyl)-4-cyano-benzenesulfonamide | BrCCCNS(=O)(=O)C1=CC=C(C=C1)C#N | C10H11BrN2O2S
